US07452658B2
(2) Tetrakis (3-hydroxyphenyl) silane
To a solution of tetrakis (3-methoxyphenyl) silane (4.5 g, 0.001 mol) in CH2Cl2 (80 ml) was added BBr3 (50 ml of 1M CH2Cl2 solution) dropwise at −78° C. The mixture was allowed to room temperature and stirred overnight. The reaction mixture was poured into 2N NaOH 50 ml), and extracted with CH2Cl2. The aqueous layer was acidified with 5N HCl, and extracted with ethyl acetate. The organic layer was dried with MgSO4 and evaporated to give brown solid. Yield 95%. 1 H NMR (acetone) 6.95 ppm (CH aromatic), 6.98 ppm (CH aromatic), 7.2 ppm (CH aromatic), 7.4 ppm (CH aromatic), 8.4 (OH). IR (NaCl plate) 3300 cm−1, 3600 cm−1 (O—H).

reactant | tetrakis (3-methoxyphenyl) silane | 0.001 mol, 4.5 g | COC=1C=C(C=CC1)[Si](C1=CC(=CC=C1)OC)(C1=CC(=CC=C1)OC)C1=CC(=CC=C1)OC | C28H28O4Si
reactant | BBr3 | 1M, 50 ml | B(Br)(Br)Br | BBr3
reactant | NaOH | 2N, 50 ml | [OH-].[Na+]
reactant | NaCl | [Na+].[Cl-]
solvent | CH2Cl2 | 80 ml | C(Cl)Cl | CH2Cl2
product | Tetrakis (3-hydroxyphenyl) silane | Yield 95% | OC=1C=C(C=CC1)[Si](C1=CC(=CC=C1)O)(C1=CC(=CC=C1)O)C1=CC(=CC=C1)O | C24H20O4Si
